US04690931
1. 2-(4-Benzylpiperidino)-propiophenone
17.5 g (0.1 mol) of 4-benzylpiperidine and then 12 g of sodium carbonate are added to a solution of 21.3 g (0.1 mol) of 2-bromopropiophenone in 100 ml of ethanol, and the mixture is heated under reflux for 2 hours. It is then filtered and the solvent is driven off. An oil remains, which is used as such in the subsequent reduction.

reactant | 4-benzylpiperidine | 0.1 mol, 17.5 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | sodium carbonate | 12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromopropiophenone | 0.1 mol, 21.3 g | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(4-Benzylpiperidino)-propiophenone | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)C1=CC=CC=C1)C | C21H25NO
